US06878714B2
A mixture of N-(3,4-dichlorophenyl){6-chloro-2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide (18 mg, 0.044 mmol, made from 2,6-dichloronicotinic acid) and 2-morpholin-4-ylethylamine (300 μL) was stirred at 80° C. for 20 h. The reaction mixture was purified on silica gel chromatography to yield N-(3,4-dichlorophenyl){6-[(2-morpholin-4-ylethyl)amino]-2-[(4-pyridylmethyl)-amino](3-pyridyl)}carboxamide. MS (ES+): 501 (M+H)+; (ES−): 499 (M−H)−. Calc'd for C24H26Cl2N6O2—500.15.

reactant | N-(3,4-dichlorophenyl){6-chloro-2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide | 0.044 mmol, 18 mg | ClC=1C=C(C=CC1Cl)NC(=O)C=1C(=NC(=CC1)Cl)NCC1=CC=NC=C1 | C18H13Cl3N4O
reactant | 2-morpholin-4-ylethylamine | 300 μL | N1(CCOCC1)CCN | C6H14N2O
product | N-(3,4-dichlorophenyl){6-[(2-morpholin-4-ylethyl)amino]-2-[(4-pyridylmethyl)-amino](3-pyridyl)}carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)C=1C(=NC(=CC1)NCCN1CCOCC1)NCC1=CC=NC=C1 | C24H26Cl2N6O2
